data/mechanism_extracts/JCatal/10.1016_j.jcat.2025.116252.json
{"doi": "10.1016_j.jcat.2025.116252", "journal": "JCatal", "is_review": false, "rxn_class_summary": "Electrochemical epoxidation of styrene catalyzed by a Mn-based MOF (FICN-24) using bromide as a redox mediator in aqueous acetonitrile.", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation cycles Mn(III)→Mn(IV)→Mn(V)=O at the FICN-24 MOF; bromide is co-oxidized to Br radical/Br2 which assists in forming a Mn(V)=O(Br) active species that transfers oxygen to the alkene.", "key_intermediates": [{"name": "L-Mn(III)-OH resting state", "smiles": null, "role": "resting_state"}, {"name": "L-Mn(IV)=O", "smiles": null, "role": "transient"}, {"name": "L-Mn(V)=O(Br) active oxidant", "smiles": null, "role": "reactive"}, {"name": "L-Mn(III)-OOH / Mn-peroxo", "smiles": null, "role": "transient"}, {"name": "Bromine radical (Br•)", "smiles": "[Br]", "role": "reactive"}, {"name": "Molecular bromine (Br2)", "smiles": "BrBr", "role": "transient"}, {"name": "Styrene oxide product", "smiles": "C1OC1c1ccccc1", "role": "transient"}], "electron_flow": "At the anode, L-Mn(III)-OH is oxidized stepwise (−e−/−H+) to L-Mn(IV)=O and then to L-Mn(V)=O; concurrently Br− is anodically oxidized to Br•/Br2, which binds Mn to give an L-Mn(V)=O(Br) species that delivers oxygen to styrene, releasing the epoxide and regenerating L-Mn(III)-Br/OH with H2O.", "rate_determining_step": "Oxygen-atom transfer from L-Mn(V)=O(Br) to styrene C=C", "probe_reagents": [{"name": "No-catalyst control", "smiles": null, "purpose": "other", "observation": "With NaBr but no FICN-24, 45% yield/45% selectivity — bromide mediation alone gives partial conversion, confirming MOF accelerates and improves selectivity."}, {"name": "FICN-24-l (alternate catalyst)", "smiles": null, "purpose": "other", "observation": "Gave 75% yield, supporting Mn-MOF involvement."}, {"name": "TBAPF6 (non-bromide electrolyte)", "smiles": null, "purpose": "redox_probe", "observation": "0% yield — bromide mediator is essential."}, {"name": "NaClO4 / TBAClO4 / TBACl", "smiles": null, "purpose": "redox_probe", "observation": "<1–18% yield; only Br− supports the catalytic cycle, ruling out generic anion effects."}, {"name": "Anhydrous MeCN (no water)", "smiles": "CC#N", "purpose": "other", "observation": "0% epoxide — water is required as the oxygen source for Mn=O regeneration."}], "evidence_types_used": ["cyclic_voltammetry", "UV_vis", "intermediate_trap_other", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Mechanism is supported by CV showing Mn(III/IV) and Mn(IV/V) redox waves, in-situ Raman detecting Br-Br stretches (175, 269 cm−1) indicating Br2/polybromide formation, and in-situ FT-IR detecting an 880 cm−1 Mn-O-OH band plus C-O-C epoxide bands (1067, 1230 cm−1). Direct O-atom transfer from Mn(V)=O to alkene (via a putative Mn-oxo-alkene or radical-rebound) is proposed; an alternative purely Br•/Br2 (bromohydrin then base-closure) pathway is implicitly excluded because non-Mn controls give much lower selectivity."}
